US07378525B2
N-[4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalen-1-yl]-2-trifluoromethyl-benzamide (C-101)
The title compound was prepared following the general procedure in Scheme 5, beginning with 4-(2-trifluoromethyl-benzoylamino)-naphthalene-1-sulfonyl chloride and substituting butyryl chloride and triethylamine for 2-isocyanato-propane. 1H NMR (300 MHz, DMSO) δ 10.91(s, 1H), 8.68 (d, 1H), 8.25 (m, 2H), 8.11 (d, 1H), 7.85 (m, 4H), 7.76 (m, 3H), 4.06 (m, 1H), 4.01(m, 1H), 3.62 (d, 1H), 2.94 (t, 1H), 2.59 (t, 2H), 1.48 (m, 2H), 1.41 (m, 2H), 1.19 (m, 2H), 0.82 (t, 3H); LC/MS m/z 546 (M−H)−, 548 (M+H)+

reactant | 4-(2-trifluoromethyl-benzoylamino)-naphthalene-1-sulfonyl chloride | FC(C1=C(C(=O)NC2=CC=C(C3=CC=CC=C23)S(=O)(=O)Cl)C=CC=C1)(F)F | C18H11ClF3NO3S
reactant | 2-isocyanato-propane | N(=C=O)C(C)C | C4H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-[4-(1-Butyryl-piperidin-4-ylsulfamoyl)-naphthalen-1-yl]-2-trifluoromethyl-benzamide | C(CCC)(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C2=CC=CC=C12)NC(C1=C(C=CC=C1)C(F)(F)F)=O | C27H28F3N3O4S
